US04681879
8-Fluoro-11-[(1-methyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
To a solution of [1-(2,4-difluorobenzyl)-2-pyrryl]-(1-methylpiperidin-4-yl)methanol(28.1 g; 0.088 mole) in 320 ml of tetrahydrofuran was added potassium tert-butoxide (11.3 g; 0.10 mole). The reaction mixture was warmed (50° C.) for 15 minutes, diluted with ethyl acetate and washed with water (2×). The organics were then dried (saturated NaCl solution, anhydrous MgSO4). This was concentrated to a solid, m.p. 115°-120° C.

reactant | [1-(2,4-difluorobenzyl)-2-pyrryl]-(1-methylpiperidin-4-yl)methanol | 0.088 mole, 28.1 g | FC1=C(CN2C(=CC=C2)C(O)C2CCN(CC2)C)C=CC(=C1)F | C18H22F2N2O
reactant | potassium tert-butoxide | 0.10 mole, 11.3 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 320 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-Fluoro-11-[(1-methyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | FC1=CC2=C(CN3C(C(O2)C2CCN(CC2)C)=CC=C3)C=C1 | C18H21FN2O
